### PR TITLE
[Merged by Bors] - feat(FieldTheory/PurelyInseparable): the iterated Frobenius map for extensions with exponent

### PR DESCRIPTION
**Pull request by mistarro**
Add the iterated Frobenius map for purely inseparable field extension `L / K` with exponent that for `n ≥ exponent K L` acts via `x ↦ x ^ p ^ n` but the codomain is the base field `K`.
Available as a ring homomorphism `L →+* K` and a semilinear map `L →ₛₗ[σ] K`, where `σ : F →+* F` is the iterated Frobenius on `F` with the same exponent `n`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/PurelyInseparable/Exponent.lean [hunk 1]
```diff
@@ -219,4 +224,124 @@ instance hasExponent_of_finiteDimensional [IsPurelyInseparable K L] [FiniteDimen
...
+      iterateFrobeniusAux_algebraMap K p hn (r • a),
+      iterateFrobenius_def,
+      map_pow,
+      Algebra.smul_def,
+      mul_pow]
+
+/-- Action of `iterateFrobeniusₛₗ` on the top field. -/
+theorem iterateFrobeniusₛₗ_algebraMap_top {n : ℕ} (hn : exponent K L ≤ n) (a : L) :
+    algebraMap K L (iterateFrobeniusₛₗ F K L p hn a) = a ^ p ^ n := by
+  simpa using iterateFrobeniusAux_algebraMap K p hn a
```
Comment (acmepjz) [inline Mathlib/FieldTheory/PurelyInseparable/Exponent.lean:328]: (untested)
```suggestion
theorem iterateFrobeniusₛₗ_algebraMap_top {n : ℕ} (hn : exponent K L ≤ n) (a : L) :
    algebraMap K L (iterateFrobeniusₛₗ F K L p hn a) = a ^ p ^ n := by
  iterateFrobenius_algebraMap_top K p hn a
```
Same as `iterateFrobeniusₛₗ_algebraMap_bot`.

Comment (mistarro) [reply Mathlib/FieldTheory/PurelyInseparable/Exponent.lean:328]: Works for `top`, thanks, but not for `bot`.

Comment (acmepjz) [reply Mathlib/FieldTheory/PurelyInseparable/Exponent.lean]: > but not for `bot`

That's strange. Let me check.

Comment (acmepjz) [reply Mathlib/FieldTheory/PurelyInseparable/Exponent.lean]: `iterateFrobenius_algebraMap_bot L p hn a` works.

File: Mathlib/FieldTheory/PurelyInseparable/Exponent.lean [hunk 2]
```diff
@@ -219,4 +224,123 @@ instance hasExponent_of_finiteDimensional [IsPurelyInseparable K L] [FiniteDimen
 
 end Field
 
+section Frobenius
+
+/-
+This section defines the iterated Frobenius map `x ↦ x ^ p ^ n` for purely inseparable
```
Comment (jcommelin) [inline Mathlib/FieldTheory/PurelyInseparable/Exponent.lean:230]:
```suggestion
This section defines the iterated Frobenius map `x ↦ x ^ p ^ n` for a purely inseparable
```

File: Mathlib/FieldTheory/PurelyInseparable/Exponent.lean [hunk 3]
```diff
@@ -219,4 +224,123 @@ instance hasExponent_of_finiteDimensional [IsPurelyInseparable K L] [FiniteDimen
...
+    apply (algebraMap K L).injective
+    rw [(algebraMap K L).map_mul,
+      iterateFrobeniusAux_algebraMap K p hn a,
+      iterateFrobeniusAux_algebraMap K p hn b,
+      iterateFrobeniusAux_algebraMap K p hn (a * b),
+      mul_pow]
+
+variable {L} in
+/-- Action of `iterateFrobenius` on the top field. -/
+theorem iterateFrobenius_algebraMap_top {n : ℕ} (hn : exponent K L ≤ n) (a : L) :
```
Comment (jcommelin) [inline Mathlib/FieldTheory/PurelyInseparable/Exponent.lean:289]: I would personally expect the name `algebraMap_iterateFrobenius`

File: Mathlib/FieldTheory/PurelyInseparable/Exponent.lean [hunk 4]
```diff
@@ -219,4 +224,123 @@ instance hasExponent_of_finiteDimensional [IsPurelyInseparable K L] [FiniteDimen
...
+      ← IsScalarTower.algebraMap_apply,
+      iterateFrobeniusAux_algebraMap K p hn a,
+      iterateFrobeniusAux_algebraMap K p hn (r • a),
+      iterateFrobenius_def,
+      map_pow,
+      Algebra.smul_def,
+      mul_pow]
+
+/-- Action of `iterateFrobeniusₛₗ` on the top field. -/
+theorem iterateFrobeniusₛₗ_algebraMap_top {n : ℕ} (hn : exponent K L ≤ n) (a : L) :
```
Comment (jcommelin) [inline Mathlib/FieldTheory/PurelyInseparable/Exponent.lean:326]: Idem dito

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
